US05153214
To a solution of methyl 4(S)-allyl-8-(benzyloxy)octanoate (2.4 g, 7.9 mmol) in dry tetrahydrofuran (20 ml) under nitrogen is added a 0.5 M solution of 9-borabicyclononane in tetrahydrofuran (23.6 ml, 11.8 mmol) and the mixture is allowed to stir at room temperature for 18 hours. The reaction mixture is added to a solution of tetrakis-triphenylphosphine palladium (O) (0.13 g, 0.11 mmole as catalyst) and potassium phosphate (5.36 g, 23.3 mmole in tetrahydrofurane (4 ml). Then 3-bromopyridine (1.2 ml, 12.5 mmol) is added and the mixture is heated at reflux for 48 hours. The reaction mixture is cooled down to 0° C. and a 15% solution of sodium hydroxide (8.9 ml) is added followed by hydrogen peroxide (8.9 ml, 30% solution). The mixture is stirred at room temperature for 1.5 hour and then diluted with ether. The organic phase is washed with brine (3×30 ml) and saturated sodium sulfite solution (30 ml). The organic phase is dried, filtered and evaporated to give a dark oil which is purified by flash chromatography on silica gel using 3:2 ether/hexane as eluent to yield methyl 4(R)-[3-(3-pyridyl)propyl]-8-(benzyloxy)octanoate; IR (CH2Cl2): 1732, 1101, 896 cm- 1.

reactant | methyl 4(S)-allyl-8-(benzyloxy)octanoate | 7.9 mmol, 2.4 g | C(C=C)[C@H](CCC(=O)OC)CCCCOCC1=CC=CC=C1 | C19H28O3
reactant | 9-borabicyclononane | C1(CCCCCCCB1)C1CCCCCCCC1 | C17H33B
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 3-bromopyridine | 12.5 mmol, 1.2 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | sodium hydroxide | 8.9 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 8.9 ml | OO | H2O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 4 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 11.8 mmol, 23.6 ml | O1CCCC1 | C4H8O
product | methyl 4(R)-[3-(3-pyridyl)propyl]-8-(benzyloxy)octanoate | N1=CC(=CC=C1)CCC[C@@H](CCC(=O)OC)CCCCOCC1=CC=CC=C1 | C24H33NO3
